US09447114B2
To a solution of 3-(5-isopentyl-1-methyl-2,4-dioxo-6-(3-(trifluoromethoxy)phenyl)-1,2-dihydro thieno[2,3-d]pyrimidin-3(4H)-yl)propyl 2,2,2-trifluoroacetate (35 mg, 0.062 mmol) in THF (4 mL) and water (4 mL) was added LiOH.H2O (5.19 mg, 0.123 mmol). The reaction was stirred at RT for 15 min then diluted with DCM (5 mL) and water (5 mL). The organic layer was dried over Na2SO4 and concentrated to a residue which was purified by Prep HPLC to give 3-(3-hydroxypropyl)-5-isopentyl-1-methyl-6-(3-(trifluoromethoxy)phenyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (15 mg, 51.6% yield) as a white solid. 1H NMR (DMSO-d6) δ: 7.65 (t, J=8.0 Hz, 1H), 7.47 (dd, J=12.5, 8.3 Hz, 2H), 7.41 (s, 1H), 4.49 (s, 1H), 4.02-3.89 (m, 2H), 3.47 (s, 5H), 2.91-2.78 (m, 2H), 1.78-1.63 (m, 2H), 1.51 (dd, J=12.4 and 6.0 Hz, 1H), 1.48-1.37 (m, 2H), 0.81 (d, J=6.4 Hz, 6H). LCMS: MH+ 471 and TR=3.347 min.

reactant | 3-(5-isopentyl-1-methyl-2,4-dioxo-6-(3-(trifluoromethoxy)phenyl)-1,2-dihydro thieno[2,3-d]pyrimidin-3(4H)-yl)propyl 2,2,2-trifluoroacetate | 0.062 mmol, 35 mg | FC(C(=O)OCCCN1C(N(C2=C(C1=O)C(=C(S2)C2=CC(=CC=C2)OC(F)(F)F)CCC(C)C)C)=O)(F)F | C24H24F6N2O5S
reactant | LiOH.H2O | 0.123 mmol, 5.19 mg | O[Li].O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | 4 mL | O | H2O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | 5 mL | O | H2O
product | 3-(3-hydroxypropyl)-5-isopentyl-1-methyl-6-(3-(trifluoromethoxy)phenyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 15 mg, 51.6% yield | OCCCN1C(N(C2=C(C1=O)C(=C(S2)C2=CC(=CC=C2)OC(F)(F)F)CCC(C)C)C)=O | C22H25F3N2O4S
